Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L face/body tingling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ yo F PMHx pre-HTN who was transferred to
___ ED ___ after presenting to an OSH with L sided numbness
and tingling with NCHCT showing a R thalamic hemorrhage (<1cm). 

Pt reports feeling well AM of presentation. After speaking with
her sister on the phone as usual, around 10a, she suddenly felt
like her mouth was "wrapped in cotton" and dry. She then felt
left-sided tongue numbness and tingling that spread to her left
face and down her left neck and arm in minutes. She felt like 
her
speech was slurring as well; she had no comprehension or word
finding difficulties. She denies any weakness and had never had
similar symptoms before. She took ASA 81 x4 (at 10a) because she
was concerned she was having a MI (her father died of an MI, she
did not have chest pain but she was worried because of the arm
symptoms). She then called EMS.

Upon EMS arrival, EMS told pt that her left face was drooping
which she agreed with. She was then brought to an OSH. At
presentation to the OSH, her BP was 210/100 with NCHCT (done
around 11a) revealing a R thalamic hemorrhage (<1cm). BP
spontaneously resolved to 159. Pt was transferred to ___ for
further management (pt's daughter is a ___ at ___.

At the time of my assessment, pt reports continued L face and 
arm
tingling. Slurred speech is resolved but pt still feels like her
left face is drooping. Pt denies headache, weakness or any other
symptoms.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
Anxiety
Depression
Pre-HTN (working on dietary and lifestyle changes)
 
Social History:
___
Family History:
Father: Heart disease
Mother: ___, lung cancer (passed away in past year)
Brother: ___ cancer
Sister: Grave's disease
No family history of strokes
 
Physical Exam:
Vitals: 98.2 79 156/111 16 94% RA 
General: NAD, resting comfortably, well-appearing
HEENT: NCAT, no oropharyngeal lesions
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No dysarthria. No evidence of hemineglect. No 
left-right
agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. Decr sensation to pinprick V1-V3 (70%). L
NLFF. Hearing intact to finger rub bilaterally.  Palate 
elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4+  5    5  5     5     4+
R  5    ___   ___  5   5    5  5     5     4+

- Sensory - Decreased sensation to pinprick in the L hemibody
(roughly 70%) apart from the knee down (100%). Sensation intact
on the right side of the body.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response withdrawal bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Deferred.
.
.
Discharge exam: Only L hemibody>face sensory deficit. Gait 
stable. O/w as above.
 
Pertinent Results:
___ 05:30PM BLOOD WBC-7.4 RBC-4.69 Hgb-14.1 Hct-39.8 MCV-85 
MCH-30.1 MCHC-35.4 RDW-12.2 RDWSD-36.7 Plt ___
___ 05:30PM BLOOD Neuts-66.5 ___ Monos-6.9 Eos-1.8 
Baso-0.4 Im ___ AbsNeut-4.89 AbsLymp-1.74 AbsMono-0.51 
AbsEos-0.13 AbsBaso-0.03
___ 05:30PM BLOOD Plt ___
___ 05:30PM BLOOD ___ PTT-30.2 ___
___ 05:30PM BLOOD Glucose-95 UreaN-14 Creat-0.7 Na-140 
K-3.7 Cl-102 HCO3-27 AnGap-15
___ 05:30PM BLOOD cTropnT-<0.01
___ 11:15AM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-1
Final Report 
EXAMINATION:  MRI AND MRA BRAIN, W/O CONTRAST T715 MR HEAD 
  
INDICATION:  ___ year old woman with R thalamic hemorrhage  // 
?microhemorrhages, ?lesion 
  
TECHNIQUE:  3 dimensional time-of-flight MRA was performed 
through the brain. 
Sagittal and axial T1 weighted imaging were performed along with 
diffusion 
imaging. 
  
Axial imaging was performed with gradient echo, FLAIR, T2, and 
T1 technique. 
Sagittal MPRAGE imaging was performed and re-formatted in axial 
and coronal 
orientations. 
  
Three dimensional maximum intensity projection and segmented 
images were 
generated. This report is based on interpretation of all of 
these images. 
  
COMPARISON:  Head CT from ___. 
  
FINDINGS:  
  
MR BRAIN: 
There is a 7 mm focus of susceptibility in the right thalamus 
corresponding to 
the hyperdensity seen on the prior CT in keeping with 
intraparenchymal 
hemorrhage.  This is most likely in keeping with hypertensive 
hemorrhage 
though underlying lesion is not completely excluded.  Short 
interval follow-up 
to ensure resolution is recommended. 
  
There is no evidence of  edema,mass effect, midline shift or 
infarction.   The 
ventricles and sulci are patent and prominent in keeping with 
age-related 
volume loss. 
  
There are confluent areas of T2/FLAIR hyperintensity in the 
subcortical and 
periventricular white matter, nonspecific, likely secondary to 
small vessel 
ischemic disease. 
  
The orbits are unremarkable noting prior left cataract surgery.  
Mucosal 
thickening in bilateral ethmoid air cells.  The remaining 
visualized paranasal 
sinuses and mastoid air cells are clear. 
  
MRA brain: The intracranial vertebral and internal carotid 
arteries and their 
major branches appear normal without evidence of stenosis, 
occlusion, or 
aneurysm formation. 
  
IMPRESSION: 
  
  
1. Right thalamic intraparenchymal hemorrhage, likely 
hypertensive in 
etiology.  However, underlying lesion is not completely excluded 
and short 
interval follow-up is recommended to ensure resolution. 
2. Unremarkable MRA of the brain. 

 
Brief Hospital Course:
___ p/w sudden onset tongue numbness with rapid spread to
left face and then left hemibody. Nervous she was having an MI
and took four 81-mg ASA. Sxs static afterwards with some
improvement over the past day. Sxs occurred at rest, no trauma.
She was evaluated in the ED where initially quite hypertensive
SBP ~220s. NCHCT with small right thalamic IPH. Reportedly
received hydral, SBP < 160 afterwards. Admitted here, mild
improvement in sxs overnight. MRI with stable appearing bleed in
right ventrolateral thalamus. 
.
PMHx for "pre-HTN". No anti-hypertensives. Non-smoker. 
.
Exam with only diminished sensation to touch on left face and
hemibody. Gross proprioception is preserved. No motor deficits.
.
Describes bleed affecting first the VPM and then
the VPL which was luckily self-contained and small despite being
very hypertensive and taking 4 baby aspirin. Etiology almost
certainly hypertensive; no suggestion of underlying lesion
(typical location, no surrounding edema, etc). Repeat scan/exam
stable at 24h with controlled BP on amlodipine so safe to
discharge home on amlodipine 5mg daily with caution against
ASA/NSAIDs. Pt to arrange PCP and ___ in ___ where she
lives.
.
TRANSITIONAL ISSUES
# HTN: titrate amlodipine PRN
# Bleed: neurology ___, repeat MRI brain ~ 1 mo to r/o 
underlying lesion
 
Medications on Admission:
1. Fluoxetine 40 mg PO DAILY 
2. ASA PRN
 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive intraparenchymal hemorrhage
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ were admitted for facial tingling/numbness which spread to 
the left side of your body. This was due a small bleed on the 
right side of your brain in an area called the thalamus. This is 
involved in transmitting sensory symptoms, thus your symptoms. 

The bleeding was small and did not expand on repeat scanning. 
The cause of the bleeding was almost certainly high blood 
pressure. We did start ___ on a medication called amlodipine. 
Take 1 pill (5mg) daily in the morning. Please monitor your 
blood pressure as we discussed. DO NOT take aspirin for aches 
and pains. Aspirin and other NSAIDs (Motrin/ibuprofen, 
Naprosyn/naproxen, etc) increase your bleeding risk. 
Acetaminophen (Tylenol) is safe at the recommended doses on the 
bottle. Avoid stress and caffeine where possible as these raise 
your blood pressure.

Please arrange an appointment with your primary care doctor for 
this coming week. Please see a neurologist in ___ 
within the coming month. At some point we would like ___ to have 
a repeat MRI to exclude any underlying blood vessel abnormality. 
Return to the emergency department immediately (via 911) if ___ 
have any worsening of symptoms or new symptoms involving your 
strength, sensation, vision, speech, walking, coordination (or 
anything else that concerns ___. 
 
Followup Instructions:
___